delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.229542
Cb B C 7.61e-06
Rc C A 30.349338
Rload B 0 30.163529
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rc[i] @rload[i]
.endc
.end
